US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-(4-Chlorophenylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 100 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 80 mg of potassium carbonate, and 84 mg of 4-chloro benzenethiol reacted to give 10 mg of the title compound as a foam.

reactant | 4-(4-Chlorophenylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 100 mg | ClC1=CC=C(C=C1)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C25H24ClNOS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro benzenethiol | 84 mg | ClC1=CC=C(C=C1)S | C6H5ClS
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 10 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
